US05063228
2-(1-Methyl-3-pyrrolidinyl)-1H-benzimidazole.
To 240 g of concentrated hydrochloric acid was added 43.2 g (0.39 mol) of 3-cyano-1-methylpyrrolidine (the temperature rose to 90° C.). After the temperature began to fall the solution was heated to 110° C. for 4 h. The solution was cooled to 60° C. and 42 g (0.39 mol) of 1,2-diaminobenzene in 250 mL of 1N hydrochloric acid was added. The solution was heated to reflux for 20 h. The cooled solution was made basic with concentrated NH4OH and the resulting crystals were collected by filtration. The product was chromatographed on a 7.5×36 cm silica column eluting with 1 gallon of 10% NH4OH-90% ethanol. The eluent was collected in 500-mL portions. The first 6 fractions were discarded and fractions 7-14 were collected and concentrated. The residue was recrystallized from ethyl acetate. Yield: 18 g (23%). A 5-g sample was recrystallized three times from ethyl acetate. Yield: 1.6 g, mp 189°-193° C.

reactant | 3-cyano-1-methylpyrrolidine | 0.39 mol, 43.2 g | C(#N)C1CN(CC1)C | C6H10N2
reactant | 1,2-diaminobenzene | 0.39 mol, 42 g | NC1=C(C=CC=C1)N | C6H8N2
reactant | NH4OH | [NH4+].[OH-]
solvent | hydrochloric acid | 1N, 250 mL | Cl | ClH
solvent | hydrochloric acid | 240 g | Cl | ClH
product | 2-(1-Methyl-3-pyrrolidinyl)-1H-benzimidazole | CN1CC(CC1)C1=NC2=C(N1)C=CC=C2 | C12H15N3
